Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
ICU HPI, confirmed in detail with pt and records:
___ with history of hypertension, anemia, coronary artery 
disease, CKD, bladder cancer s/p ileal conduit/urostomy and 
gallbladder carcinoma s/p cholecystectomy and partial 
hepatectomy presenting with 4 days of non productive cough and 
lethargy.  

Pt reports cough keeping him up all night. No improvement w/ 
cough drops and robitussin. Lethargic for ___ which concerned 
him b/c previous times had UTI or dehydration. He denies fevers, 
N/V, CP, SOB, diarrhea, abdominal pain, hematuria, melena, 
BRBPR, change in urine color.
 
In the ED, initial vitals: 98.5 102 137/76 20 99% RA 
- Exam notable for RRR, lungs CTAB, benign abdomen w/ clear 
urine in ostomy. 
- Labs were notable for:  

137  ___   
-------------< 
4.7  24  1.2 

9.3 > 11.9  < 167 
      36.8  

lactate 1.1, UA with mod leuks, 16 WBC, neg nitrites (expected 
for ostomy)
- Imaging: Possible retrocardiac patchy opacification involving 
one of the lower lobes 
- Patient was given:  albuterol nebs, ipratropium nebs, 
azithromycin, guaifenesin codeine, 1L NS
- Consults: none  
 
20 min after receiving codeine, the patient became increasingly 
somnolent. Repeat labs and a VBG were sent, which were normal. 
He then became tachycardic to 120s with PVCs, febrile to 102.2 
and became more somnolent but arousable. He was given 
Azithromycin IV, IV Tylenol, IV cefepime, IV ctx & ___ L of NS 
(vanc ordered, not administered). Family declined CT given 
possible need for intubation. He was admitted to the ICU because 
he became progressively somnolent. 

On arrival to the MICU, pt endorses persistent cough, but 
feeling significantly less lethargic than the days leading to up 
to presentation. In the ICU, pt was treated with ceftriaxone and 
azithromycin, which were quickly transitioned to 
cefpodoxime/azithromycin. BCx were NGTD, and urine legionella Ag 
negative. His encephalopathy was thought to be ___ medication 
effect in ED with possible contribution of infection, and 
resolved without further specific intervention. His lisinopril 
and metoprolol were held in the setting of sepsis. He was noted 
to have many PVCs on telemetry; electrolytes were WNL and 
troponin was negative x3. He was called out of the ICU to the 
floor on ___.

On transfer to the floor, he denies pain, notes only that his 
head feels slightly warm. He denies headache, and does not feel 
like he's getting a fever, denies chills. Breathing continues to 
feel better each day. Cough is much improved compared to 
admission, and is steadily improving. It remains nonproductive. 
Denies ___ edema, chest pain, palpitations.

 
Past Medical History:
Coronary artery disease - ___ cath with right dominant system. 
The LMCA was patent. The LAD
revealed mid 40%, DIAG 50% and diffuse distal distal disease in
the large septal. The LCx with no significant disease. The RCA
with mid 20% stenosis.  
Hypercholesterolemia
Glucose intolerance
Hypertension
Remote hx bladder ca s/p ileal conduit 
S/p right carotid endarterectomy in ___
Gallbladder carcinoma s/p cholecystectomy ___ 
Glaucoma
Osteopenia
Recurrent UTIs and bacteremias: MRSA, Enterococcus, Pan 
sensitive E coli, Pan sensitive klebsiella

 
Social History:
___
Family History:
Per OMR:
- Sister who developed breast cancer in her ___  
- Sister with thyroid disease  
- Brother with diabetes  
- Mother died in ___ of MI  
- Father died in ___ of Alzheimer's disease  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals:  98.9 104 128/65 96%RA
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: supple neck, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: urostomy bag in place with light yellow urine. obese, 
nondistended, +BS, nontender in all quadrants, no 
rebound/guarding 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose   
NEURO: CN II-XII intact 
SKIN: intertriginous rash under bilateral breasts and in axilla 
ACCESS:  PIV

TRANSFER PHYSICAL EXAM
=======================
avss 
attentive and cooperative
clear BS no focal wheezes or crackles
soft abd
regular s1 and s2

 
Pertinent Results:
ADMISSION LABS
===============
___ 01:22PM BLOOD WBC-9.1 RBC-4.06* Hgb-12.1* Hct-37.8* 
MCV-93 MCH-29.8 MCHC-32.0 RDW-13.7 RDWSD-46.7* Plt ___
___ 01:22PM BLOOD Neuts-65.1 Lymphs-18.5* Monos-13.6* 
Eos-2.0 Baso-0.4 Im ___ AbsNeut-5.89# AbsLymp-1.68 
AbsMono-1.23* AbsEos-0.18 AbsBaso-0.04
___ 10:34PM BLOOD ___ PTT-28.9 ___
___ 01:22PM BLOOD Glucose-197* UreaN-26* Creat-1.2 Na-137 
K-4.7 Cl-102 HCO3-24 AnGap-16
___ 10:34PM BLOOD ALT-19 AST-17 LD(LDH)-178 AlkPhos-93 
TotBili-0.3
___ 01:22PM BLOOD cTropnT-<0.01
___ 01:22PM BLOOD Calcium-9.8 Phos-2.7 Mg-2.0
___ 05:48PM BLOOD ___ pO2-27* pCO2-45 pH-7.38 
calTCO2-28 Base XS-0
___ 01:29PM BLOOD Lactate-1.1

___ 03:14AM BLOOD Plt ___
___ 03:14AM BLOOD Glucose-166* UreaN-23* Creat-1.2 Na-137 
K-4.0 Cl-102 HCO3-26 AnGap-13
___ 03:14AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1
___ 02:19PM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:35PM BLOOD cTropnT-<0.01
___ 01:22PM BLOOD cTropnT-<0.01

EKG: Sinus tachycardia at 102 bpm, LAD, LBBB with frequent PVCs, 
no TWI, no significant change compared to prior

CXR ___:
IMPRESSION:  
Possible retrocardiac patchy opacification involving one of the 
lower lobes, 
best seen on the lateral view, could be due to pneumonia in the 
appropriate 
clinical setting versus atelectasis/ overlap of structures. 

ECHO ___: 
The left atrium is mildly dilated. There is mild symmetric left
ventricular hypertrophy. The left ventricular cavity is mildly
dilated. There is mild regional left ventricular systolic
dysfunction with probable inferior hypokinesis. The remaining
segments contract normally (LVEF = 40-45%). Right ventricular
chamber size and free wall motion are normal. The diameters of
aorta at the sinus, ascending and arch levels are normal. There
is no aortic valve stenosis. No aortic regurgitation is seen.
Trivial mitral regurgitation is seen. There is no pericardial
effusion. 
IMPRESSION: Suboptimal study. Mild regional left ventricular
systolic dysfunction, c/w CAD.
 
  

 
Brief Hospital Course:
___ with history of hypertension, anemia, coronary artery 
disease, CKD, bladder cancer s/p ileal conduit/urostomy and 
gallbladder carcinoma s/p cholecystectomy and partial 
hepatectomy presenting with pneumonia.  

# Sepsis: Admitted with tachycardia and fever, clinically met 
criteria for sepsis ___ community acquired pneumonia. Sepsis now 
resolving. Does also have urine positive for pansensitive E. 
coli, although in the absence of urinary sxs and with compelling 
clinical e/o pneumonia, suspect that this finding is incidental. 
Last fever ___, within 48 hours of initiation of abx. 
Initially treated with cefepime and azithromycin (___-), then 
transitioned to PO azithromycin and cefpodoxime 

# Frequent PVCs: Known nonobstructive CAD, PVCs complicated 
hospital course in ___ at which time cardiology was 
consulted; recommended BB, statin, and f/u with outpatient 
cardiologist. Seen by Dr ___ ___ who suggested continue 
BB, statin, consider stress test. At that time, recommended - 
given his age, lack of symptoms, improvement in frequency of 
ectopy (reported) with improvement in sepsis, and prior cath in 
___ - no indication for PPM. PVCs again complicating sepsis, 
hemodynamically stable, asymptomatic, with troponin negative x3 
and electrolytes at goal.  Continued statin and beta blocker and 
will f/u with cardiology.  

# Encephalopathy. Likely toxic metabolic in the setting of PNA, 
in combination with codeine use. Now at baseline cognitive 
function per pt and son. 
# CKD: Baseline Cr 1.2, at baseline.

# Hypertension:Lisinopril initially held in setting of sepsis, 
now resumed 
# Hyperlipidemia/CAD: Continue atorvastatin BB as ___

# Anemia: Normocytic, at baseline. Hb at baseline. If continues 
to fall, would consider further w/u.
# DM2: Last A1c was 7.4% on ___. Patient reportedly declined 
medication in the past. hyperglycemia during hospitalization, 
will have ___ check this on discharge

# Bladder cancer status post cystoprostatectomy with urostomy 
bag in place. Recurrent hospitalizations for urosepsis in the 
past. Followed closely by Dr. ___ in urology. 
# Gallbladder cancer: No evidence of recurrence. Formerly 
followed by Dr. ___ in Hematology/Oncology, no longer 
followed routinely given lack of disease recurrence ___ years.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
4. Calcium Carbonate 500 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. Metoprolol Tartrate 12.5 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. Vitamin B Complex 1 CAP PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Acetaminophen 650 mg PO BID:PRN pain 
13. Ascorbic Acid ___ mg PO TID 
14. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 4 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*16 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO BID:PRN pain  
4.  Ascorbic Acid ___ mg PO TID  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 20 mg PO QPM  
7.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID  
8.  Calcium Carbonate 500 mg PO TID  
9.  Cyanocobalamin 1000 mcg PO DAILY  
10.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Lisinopril 5 mg PO DAILY  
13.  Metoprolol Tartrate 12.5 mg PO BID  
14.  Multivitamins 1 TAB PO DAILY  
15.  Vitamin B Complex 1 CAP PO DAILY  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pneumonia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
you were hospitalized for treatment and evaluation of pneumonia. 
 you will remain on antibiotics this week.

 
Followup Instructions:
___